US07446216B2
4-Bromo-2,6-dimethylindan-1-one
To a suspension of 334 g (2.50 mol) of anhydrous AlCl3 (powder) in 400 ml of dry dichloromethane, a solution of 160 g (1.00 mol) of 2,6-dimethylindan-1-one in 200 ml of dichloromethane was added dropwise while vigorously stirring for 30 min at 0° C. This mixture was stirred for 1 h at ambient temperature, and then a solution of 51.6 ml (161 g, 1.01 mol) of bromine in 800 ml of dichloromethane was added while vigorously stirring for 2 h. The resulting mixture was stirred for 12 h and then poured on 700 cm3 of ice. The mixture was acidified by saturated HCl to pH 1, the organic layer was separated, and the aqueous layer was extracted with 3×350 ml of dichloromethane. The combined organic fractions were dried over K2CO3 and then evaporated to dryness. From the residue, 71.0 g of the starting indanone was distilled off in vacuum (bp 89-91 mm Hg), and the solid material left in the rectification flask was recrystallized from 600 ml of hot hexanes. Crystals that precipitated at room temperature were collected. The pure title product was then isolated by flash chromatography on Silica Gel 60 (40-63 um, d 50 mm, l 1200 mm, eluent: hexanes-dichloromethane, 10:1, vol.). Yield 44.0 g (18%).

reactant | AlCl3 | 2.50 mol, 334 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2,6-dimethylindan-1-one | 1.00 mol, 160 g | CC1C(C2=CC(=CC=C2C1)C)=O | C11H12O
reactant | bromine | 1.01 mol, 51.6 ml, 161 g | BrBr | Br2
reactant | HCl | Cl | ClH
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | 4-Bromo-2,6-dimethylindan-1-one | BrC1=C2CC(C(C2=CC(=C1)C)=O)C | C11H11BrO
